US07897624B2
Step c: 4-(2-Fluoro-4-iodophenylamino)-5-nitropyridin-2(1H)-one
To the mixture of 4-chloro-5-nitropyridin-2(1H)-one (90.1 mg, 0.517 mmol) and 2-fluoro-4-iodoaniline (137.5 mg, 0.58 mmol) dissolved in EtOH (5 mL) was added 6 drops of HCl (37% wt in water). The reaction vessel was closed and heated at 90° C. for 48 hours. After cooling to room temperature, water was added, and the solution was stirred at room temperature for 20 min. The precipitate was filtered, washed with water, dried under vacuum and used for the next reaction without further purification. (87.3 mg, 45% yield).

reactant | 4-chloro-5-nitropyridin-2(1H)-one | 0.517 mmol, 90.1 mg | ClC1=CC(NC=C1[N+](=O)[O-])=O | C5H3ClN2O3
reactant | 2-fluoro-4-iodoaniline | 0.58 mmol, 137.5 mg | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | water | O | H2O
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | HCl | 6 drops | Cl | ClH
product | 4-(2-Fluoro-4-iodophenylamino)-5-nitropyridin-2(1H)-one | 45% yield | FC1=C(C=CC(=C1)I)NC1=CC(NC=C1[N+](=O)[O-])=O | C11H7FIN3O3
